US07947691B2
1-(2-Bromo-benzyl)-3-hydroxy-1H-benzo[4,5]thieno[3,2-d]pyrimidine-2,4-dione
Following general procedure B2 and D1, 3-(2,4-Dimethoxy-benzyloxy)-1H-benzo[4,5]thieno[3,2-d]pyrimidine-2,4-dione was alkylated with 2-bromobenzyl bromide and subsequently deprotected to provide the title compound as a white solid. 1H NMR (d6-DMSO, 300 MHz) δ 5.58 (s, 2H); 7.16-7.19 (m, 1H); 7.25-7.31 (m, 2H); 7.34-7.43 (m, 1H); 7.48-7.57 (m, 2H); 7.78-7.81 (m, 1H); 8.43 (d, J=8 Hz, 1H); 11.10 (br s, 1H); Ret. time=2.87 min., m/z=403.0.

reactant | 3-(2,4-Dimethoxy-benzyloxy)-1H-benzo[4,5]thieno[3,2-d]pyrimidine-2,4-dione | COC1=C(CON2C(NC3=C(C2=O)SC2=C3C=CC=C2)=O)C=CC(=C1)OC | C19H16N2O5S
reactant | 2-bromobenzyl bromide | BrC1=C(CBr)C=CC=C1 | C7H6Br2
product | 1-(2-Bromo-benzyl)-3-hydroxy-1H-benzo[4,5]thieno[3,2-d]pyrimidine-2,4-dione | BrC1=C(CN2C(N(C(C3=C2C2=C(S3)C=CC=C2)=O)O)=O)C=CC=C1 | C17H11BrN2O3S
